US07700641B2
C. Synthesis of 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 1-hexyl-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (98%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.38-7.13 (m, 3H), 6.94 (d, 1H), 6.60 (s, 1H), 6.32 (s, 1H), 5.84 (dd, 2H), 5.02 (s, 1H), 3.74-3.63 (m, 2H), 1.70-1.61 (m, 2H), 1.37-1.19 (m, 6H), 0.83 (t, 3H); MS (ES+) m/z 354.2 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 1-hexyl-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(CCCCC)N1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C21H23NO5
product | 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(CCCCC)N1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O | C21H23NO4
